US05292732
N-[2-(4,5-Dihydro-1H-benzo[g]indol-1-yl)ethyl]acetamide (4.0 g) was dissolved in 50 ml of toluene under argon and treated with 3.8 g of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (DDQ). The reaction mixture was stirred at 80° C. for 2 hours, a further 0.4 g of DDQ was then added and the mixture was stirred at 80° C. for a further 2 hours. The separated precipitate was filtered off at room temperature and the filtrate was freed from solvent. The crude product, 1.5 g of dark brown solid, was chromatographed on 60 g of neutral aluminium oxide with ethyl acetate as the eluent. There were obtained 1.2 g (30%) of N-[2-(1H-benzo[g]indol-1-yl)ethyl]acet-amide which was processed without further purification.

reactant | N-[2-(4,5-Dihydro-1H-benzo[g]indol-1-yl)ethyl]acetamide | 4.0 g | N1(C=CC=2CCC3=C(C12)C=CC=C3)CCNC(C)=O | C16H18N2O
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 3.8 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | DDQ | 0.4 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N-[2-(1H-benzo[g]indol-1-yl)ethyl]acet-amide | 1.2 g, 30% | N1(C=CC2=CC=C3C(=C12)C=CC=C3)CCNC(C)=O | C16H16N2O
